US05843957
Preparation of N-(1-methyl-4-(3-hydroxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl)-N'-(2,6-diisopropylphenyl)urea
To a solution of N-[1-methyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea (1310 mg, 2.7 mmol) in methylene chloride (20 ml) was added dropwise boron tribromide (1.7 g, 6.75 mmol) at 0° C., and the mixture was stirred for 6 hours. The mixture was poured into a saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted with methylene chloride. The extract was washed with water, washed with a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. The residue was concentrated under reduced pressure, purified by silica gel column chromatography (3% methanol in chloroform), and crystallized from diethyl ether/hexane to give the title compound (830 mg, 1.76 mmol) as a colorless powder.

reactant | N-[1-methyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea | 2.7 mmol, 1310 mg | CN1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OC)NC(=O)NC1=C(C=CC=C1C(C)C)C(C)C)=O | C29H32N4O3
reactant | boron tribromide | 6.75 mmol, 1.7 g | B(Br)(Br)Br | BBr3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | N-(1-methyl-4-(3-hydroxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl)-N'-(2,6-diisopropylphenyl)urea | 1.76 mmol, 830 mg | CN1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)O)NC(=O)NC1=C(C=CC=C1C(C)C)C(C)C)=O | C28H30N4O3
